US05708018
5,6-Methylenedioxy-2-(di-n-propylamino)indan (B-1, Chart B).
5,6-Dihydroxy-2-(di-n-propylamino)indan hydrobromide (400 mg, 1.21 mmol) was dissolved in dimethylformamide/acetonitrile (8 mL, 1:1). Potassium carbonate (1.67 g, 12.1 mmol) and 1,2-dibromomethane (0.09 mL, 1.3 mmol) was added and the mixture was heated at 100° C. overnight. Water was added and the reaction mixture concentrated to remove solvents. The resulting mixture was extracted with ethyl acetate (5×75 mL). The combined organic layers were washed with brine, dried, filtered and concentrated to yield an oil. The crude material was chromatographed (200 g silica gel) eluting with methylene chloride/methanol (19:1) to yield an oil. The oil was converted into the HCl salt and recrystallized using methanol/ethyl acetate/ether: mp 168°-269° C.

reactant | 5,6-Dihydroxy-2-(di-n-propylamino)indan hydrobromide | 1.21 mmol, 400 mg | Br.OC=1C=C2CC(CC2=CC1O)N(CCC)CCC
reactant | Potassium carbonate | 12.1 mmol, 1.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromomethane | 1.3 mmol, 0.09 mL | C(CBr)Br | C2H4Br2
reactant | HCl | Cl | ClH
solvent | dimethylformamide acetonitrile | 8 mL | CN(C=O)C.C(C)#N
solvent | Water | O | H2O
product | 5,6-Methylenedioxy-2-(di-n-propylamino)indan | C1OC=2C=C3CC(CC3=CC2O1)N(CCC)CCC | C16H23NO2
